US09278940B2
To a mixture of 2-(6-bromo-5-methoxypyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one (0.196 g, 0.50 mmol), 1-isopropylpiperazine (0.077 g, 0.60 mmol), BINAP (0.062 g, 0.10 mmol), and Cs2CO3 (0.652 g, 2.0 mmol) in nitrogen saturated dioxane (10 mL) was added palladium(II) acetate (0.022 g, 0.10 mmol). The resulting mixture was heated at 100° C. for 3 h. After that time the reaction was cooled to rt, diluted with dichloromethane (100 mL) and washed with water (20 mL). The organic phase was dried over Na2SO4 and concentrated under reduced pressure. The product was purified by flash column chromatography (silica gel, 90:10:0.1 dichloromethane/methanol/ammonium hydroxide) to give 2-(6-(4-isopropylpiperazin-1-yl)-5-methoxypyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one (0.055 g, 25%) as a pale yellow solid: mp 208-210° C.; 1H NMR (400 MHz, CDCl3): δ 10.23 (br s, 1H), 8.08 (d, J=8.0 Hz, 1H), 7.17 (d, J=8.0 Hz, 1H), 6.79 (d, J=2.4 Hz, 1H), 6.45 (d, J=2.4 Hz, 1H), 3.98 (s, 3H), 3.95 (s, 3H), 3.93 (s, 3H), 3.56 (br s, 4H), 2.78 (br s, 5H), 1.15 (d, J=5.6 Hz, 6H); ESI MS m/z 440 [M+H]+.

reactant | 2-(6-bromo-5-methoxypyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.50 mmol, 0.196 g | BrC1=C(C=CC(=N1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)OC | C16H14BrN3O4
reactant | 1-isopropylpiperazine | 0.60 mmol, 0.077 g | C(C)(C)N1CCNCC1 | C7H16N2
reactant | BINAP | 0.10 mmol, 0.062 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 2.0 mmol, 0.652 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | palladium(II) acetate | 0.10 mmol, 0.022 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(6-(4-isopropylpiperazin-1-yl)-5-methoxypyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.055 g, 25% | C(C)(C)N1CCN(CC1)C1=C(C=CC(=N1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)OC | C23H29N5O4
